US05883049
An acetonitrile (10 mL) solution of 2-(4-chloro-2-fluoro-5-hydroxyphenyl)-5,6-dihydroimidazo [1,5-a] pyridine-1,3[2H, 7H]-dione (0.59 g, 2.0 mmol), potassium carbonate (0.2 g, 2.2 mmol) and methyl chloroacetate (0.2 mL, 2.2 mmol) was stirred for 5 hours under reflux. A saturated ammonium chloride solution (10 mL) was added to the resulting mixture, and the organic layer was separated and then the aqueous layer was extracted with diethyl ether (10 mL×2 times). The organic layer combined was washed with a saturated sodium chloride solution (20 mL) and dried over anhydrous magnesium sulfate. After removal of magnesium sulfate by filtration, the filtrate was evaporated to give crude product, which was purified by silica gel column (Wakogel C-200, ethyl acetate/hexane =1/2) to obtain 2-(4-chloro-2-fluoro-5-methoxycarbonyl-methoxyphenyl)-5,6-dihydroimidazo [1,5-a] pyridine-1,3[2H, 7H]-dione (0.64 g, yield:86.5%).

reactant | 2-(4-chloro-2-fluoro-5-hydroxyphenyl)-5,6-dihydroimidazo [1,5-a] pyridine-1,3[2H, 7H]-dione | 2.0 mmol, 0.59 g | ClC1=CC(=C(C=C1O)N1C(N2C(=CCCC2)C1=O)=O)F | C13H10ClFN2O3
reactant | potassium carbonate | 2.2 mmol, 0.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl chloroacetate | 2.2 mmol, 0.2 mL | ClCC(=O)OC | C3H5ClO2
reactant | ammonium chloride | 10 mL | [Cl-].[NH4+]
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 2-(4-chloro-2-fluoro-5-methoxycarbonyl-methoxyphenyl)-5,6-dihydroimidazo [1,5-a] pyridine-1,3[2H, 7H]-dione | 0.64 g, yield:86.5% | ClC1=C(C(=C(C=C1C(=O)OC)N1C(N2C(=CCCC2)C1=O)=O)F)OC | C16H14ClFN2O5
